US08084469B2
Methyl 5-(4-ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylate [racemic cis/trans isomer mixture]
According to General Method 5A, 2.2 g (5.0 mmol) of 3-methyl 1-(4-nitrophenyl) 5-(4-ethyl-3-fluorophenyl)piperidine-1,3-dicarboxylate and 2.8 ml (3.1 g, 30.0 mmol) of thiomorpholine were reacted. Yield: 1.2 g (57% of theory)

reactant | 3-methyl 1-(4-nitrophenyl) 5-(4-ethyl-3-fluorophenyl)piperidine-1,3-dicarboxylate | 5.0 mmol, 2.2 g | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC)F | C22H23FN2O6
reactant | thiomorpholine | 30.0 mmol, 2.8 ml, 3.1 g | N1CCSCC1 | C4H9NS
product | Methyl 5-(4-ethyl-3-fluorophenyl)-1-(thiomorpholin-4-ylcarbonyl)piperidine-3-carboxylate | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C(=O)N1CCSCC1)C(=O)OC)F | C20H27FN2O3S
